US08957203B2
(E)-3-(4-fluoro-2-methoxyphenyl)acrylic acid (1.22 g, 6.22 mmol), diphenylphosphinyl azide (1.273 mL, 5.91 mmol), and Et3N (1.734 mL, 12.44 mmol) were dissolved in benzene and stirred for 16 h. The solution was concentrated under vacuum and the residue was purified by silica gel chromatography using 20% EtOAc/Hexanes to give (E)-3-(4-fluoro-2-methoxyphenyl)acryloyl azide (1.0 g, 73% yield).

reactant | (E)-3-(4-fluoro-2-methoxyphenyl)acrylic acid | 6.22 mmol, 1.22 g | FC1=CC(=C(C=C1)/C=C/C(=O)O)OC | C10H9FO3
reactant | diphenylphosphinyl azide | 5.91 mmol, 1.273 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 12.44 mmol, 1.734 mL | CCN(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E)-3-(4-fluoro-2-methoxyphenyl)acryloyl azide | 1.0 g, 73% yield | FC1=CC(=C(C=C1)/C=C/C(=O)N=[N+]=[N-])OC | C10H8FN3O2
